Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
metastatic lesions on chest CT
 
Major Surgical or Invasive Procedure:
Right ultrasound guided chest wall biopsy ___

 
History of Present Illness:
___ w/ hx DM on metformin presenting as a transfer from ___ for CT torso concerning for metastatic lung cancer. 

Patient originally presented there for increasing dyspnea on
exertion, right-sided chest pain, weight loss, fatigue, and 
right
abdominal pain. He states that over the course of the past ___
months he has developed decreased p.o. intake, weight loss of 30
pounds, as well as sharp, right-sided, constant chest pain,
exacerbated by any physical movement, associated with occasional
mild dry cough and increasing dyspnea on exertion. He explains
that he saw his PCP 5 weeks ago and his PCP was concerned for
PNA, but wanted him to go to the ED for evaluation and imaging
which he refused.  He was given an empiric course of antibiotics
for a presumed pneumonia. Otherwise, he denies any fevers,
chills, nausea, vomiting, diaphoresis. He reports some vocal
hoarseness in the past month.

At OSH,  labs generally unremarkable - Cr 1.1, Hgb 16, Lactate
1.8. CT torso notable for large RUL mass 12 x 5.5 x 9 cm, 4 cm
metastatic lesion to the 8th rib, multiple liver mets, largest 
of
which is 3.5 cm.

In the ___ ED, initial VS were: 97.9, 92, 129/87, 15, 96% RA 
Exam notable for:  Cachectic man, decreased BS on the right, 
mild
TTP RUQ, no ___ swelling. Labs were generally unremarkable. No
additional imaging or work-up was done. Patient admitted to
medicine for further work-up.

On arrival to the floor, patient reports having ___ right-sided
chest/abdominal pain unchanged from his baseline. Denies any
other symptoms at this time. he confirmed the history above.

 
Past Medical History:
- Type 2 diabetes  
 
Social History:
___
Family History:
Father died of lung cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS:  97.7, 149 / 86, 94, 19, 93% RA
GENERAL: Cachectic appearing man in NAD. Breathing unlabored.
HEENT: AT/NC, miotic pupils unreactive, anicteric sclera, dry MM 


NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs 
CHEST: Tenderness to palpation of right chest
LUNGS: Decreased air movement in the right upper lung fields. No
crackles, ronchi, or wheezing otherwise.  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: No cyanosis or edema. Mild fingernail clubbing.
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose   
 

DISCHARGE PHYSICAL EXAM:
___ ___ Temp: 97.8 PO BP: 128/86 L Lying HR: 102 RR: 18 O2
sat: 97% O2 delivery: Ra FSBG: 127 
GENERAL: Cachectic appearing man in NAD. Breathing unlabored.
white coating improved.
HEENT: AT/NC, miotic pupils unreactive, anicteric sclera, dry MM 

NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs 
CHEST: Tenderness to palpation of right chest
LUNGS: Decreased air movement in the right upper lung fields. No
crackles, rhonchi, or wheezing otherwise.  
ABDOMEN: nondistended, RUQ tenderness of exam; no
rebound/guarding, no hepatosplenomegaly; BS+
EXTREMITIES: No cyanosis or edema. Mild fingernail clubbing.
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose   

 
Pertinent Results:
ADMISSION LABS:
___ 02:45AM BLOOD WBC-8.6 RBC-5.64 Hgb-16.2 Hct-49.9 MCV-89 
MCH-28.7 MCHC-32.5 RDW-14.0 RDWSD-45.1 Plt ___
___ 02:45AM BLOOD Neuts-75.9* Lymphs-17.1* Monos-5.6 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-6.53* AbsLymp-1.47 
AbsMono-0.48 AbsEos-0.02* AbsBaso-0.04
___ 02:45AM BLOOD ___ PTT-28.3 ___
___ 02:45AM BLOOD Glucose-162* UreaN-19 Creat-0.8 Na-144 
K-5.1 Cl-101 HCO3-27 AnGap-16
___ 02:45AM BLOOD ALT-13 AST-15 LD(LDH)-396* AlkPhos-112 
TotBili-0.3
___ 02:45AM BLOOD Albumin-3.2* Calcium-9.0 Phos-2.8 Mg-1.5* 
UricAcd-6.3
___ 02:45AM BLOOD HBsAg-NEG HBsAb-NEG
___ 08:16AM BLOOD HIV Ab-NEG
___ 02:45AM BLOOD HCV Ab-NEG

DISCHARGE LABS:
___ 06:00AM BLOOD Glucose-160* UreaN-16 Creat-0.7 Na-139 
K-4.7 Cl-96 HCO3-31 AnGap-12
___ 06:00AM BLOOD WBC-8.8 RBC-5.50 Hgb-16.0 Hct-48.7 MCV-89 
MCH-29.1 MCHC-32.9 RDW-14.3 RDWSD-45.9 Plt ___

MRI C-spine: 1. Redemonstrated long segment epidural 
thickening/enhancement extending from 
the skull base to the level of C4 is suspicious for metastatic 
disease. 
2. For the limited portions of the included brain please refer 
to the 
dedicated report of the MRI brain study performed 1 day prior. 
3. A 1.1 cm T1 hypointense/stir hyperintense lesion within the 
T3 vertebral 
body may demonstrate subtle postcontrast enhancement with the 
differential 
including osseous metastatic disease versus an atypical 
hemangioma.  Consider 
further evaluation with a CT thoracic spine. 
4. Degenerative changes of the cervical spine most significant 
at C3-C4 where 
a large central disc protrusion results in posterior 
displacement and ventral 
indentation/flattening of the cord without evidence of abnormal 
cord signal. 
  
 MRI head: 
1.  Focus of abnormal enhancement in the anterior aspect of the 
corpus 
callosum on the right, measuring approximately 4 x 5 mm in 
transverse 
dimension (image 15, series 13, and image 64, series 100, given 
the clinical 
history this lesion is highly suspicious for metastatic disease. 

  
2.  Questionable focus of enhancement in the left cerebellar 
hemisphere which 
is not visible in other sequences, probably represent a flow 
related artifact 
after contrast administration, close attention in follow-up 
exams in this area 
is advised (image 32, series 100). 
  
2.  Limited evaluation of the cervical spine demonstrates 
possible abnormal 
epidural enhancement versus prominent disc bulge at the level of 
C3-C4 (image 
105, series 14), correlation with dedicated MRI of the cervical 
spine with and 
without contrast is recommended for further characterization. 

 
Brief Hospital Course:
___ w/ hx DM on metformin presenting as a transfer from ___ for CT torso concerning for metastatic lung cancer.

# New Presumed Lung Malignancy:
Patient with smoking history, presenting with large RUL mass
lesion with multiple metastases to the liver and the ribs.
Patient with long history of fatigue, decreased PO intake, 
weight
loss. Brain MRI
with lesion concerning for met in right corpus callosum. Had ___ 
biopsy of right chest wall lesion, with results pending at 
discharge. For pain control, treated with Tylenol, tramadol, and 
lidocaine patches as patient did not want any stronger narcotics 
for pain though it was limiting his ability to walk.

#Possible Thrush: patient with white coating on mouth, which is
not symptomatic, but potentially consistent with thrush. HIV was 
negative and was given nystatin swish and spit empirically 
during his stay with improvement.

#Malnutrition: clearly malnourished ___ malignancy (increased
catabolism) as well as poor PO intake. Nutrition consulted and 
recommended tube feeds but he refused. He was started on 
Ensures, magic cups TID, IV thiamine transitioned to PO, MVI 
with minerals. Also started on mirtazapine 7.5 mg QHS for 
appetite stimulant which he tolerated well.

#Tobacco abuse:
- started on nicotine patches

#GOC: patient explicitly states that he would like to be DNR/DNI
with full understanding that he likely has limited life left 
with
probable metastatic cancer. He would not want any aggressive
therapy such as chemotherapy with curative intent, but may be
amenable to palliative therapies.

CHRONIC ISSUES:
==============
# Type II diabetes:
- Held home metformin, glimepiride. Restarting metformin on 
discharge but holding glimepiride due to decreased PO intake and 
concern for hypoglycemia.
- HISS

TRANSITIONAL ISSUES:
- Please follow up pathology from right chest wall biopsy and 
refer to appropriate oncology team based on primary (presumed 
lung cancer).
- Pain control: Tylenol, tramadol 50-75 mg q4h prn, lidocaine 
patches. Please assess pain control and adjust as needed.
- Please follow up Quantiferon gold which is pending
- Will need palliative care referral as outpatient after 
discussion with oncology re: treatment plan
- home with home ___, ___, and social work
- Started on mirtazapine 7.5 mg QHS for appetite. Please measure 
weight at clinic visit and ensure that he is getting Ensures and 
increasing intake. Consider uptitration of mirtazapine to 15 mg 
QHS for appetite if tolerating medication well.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. glimepiride 2 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*180 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY constipation 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Lidocaine 5% Patch 1 PTCH TD QAM pain 
RX *lidocaine 5 % apply to right chest wall daily Disp #*60 
Patch Refills:*0 
5.  Lidocaine 5% Patch 1 PTCH TD QPM  
6.  Mirtazapine 7.5 mg PO QHS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
7.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
8.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour apply to skin daily Disp #*30 Patch 
Refills:*0 
9.  Senna 17.2 mg PO HS 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth at bedtime Disp 
#*30 Tablet Refills:*0 
10.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0 
11.  TraMADol 50-75 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
12.  MetFORMIN (Glucophage) 500 mg PO BID  
13. HELD- glimepiride 2 mg oral DAILY  This medication was held. 
Do not restart glimepiride until you see your PCP and they tell 
you to restart
14.Rolling walker
ICD-10: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis:
New Metastatic Disease, primary likely lung cancer
Malnourished
Thrush
Tobacco Abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It has been a pleasure taking care of you at ___.

Why was I here?
- You were sent here for evaluation new masses in your lungs.

What was done for me here?
- You had imaging which showed a brain lesion, a large lung 
mass, and bony masses in your chest.
- You had a biopsy of the right chest wall lesion and the 
results are pending.
- You were seen by nutrition and started on some medications for 
appetite and nutrition.

What should I do when I go home?
- Take your medications as prescribed.
- Take your pain medications for your chest pain as needed.
- It is important that you go to your new PCP ___. They will 
set up the oncologist visit for you.
- At your oncology visit, you will discuss the results of the 
biopsy and the plan for treatment.
- You will have visiting nurses, physical therapy, and social 
work come to your house to help you get better.

Sincerely,
Your ___ Team
 
Followup Instructions:
___